US05708008
5-(3,4-dimethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10.0 mg (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 19.6 mg (0.131 mMol) 3,4-dimethylbenzoic acid, 12.0 mg (76%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.044 mMol, 10.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3,4-dimethylbenzoic acid | 0.131 mMol, 19.6 mg | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
product | 5-(3,4-dimethylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 12.0 mg, 76% | CC=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1C | C23H27N3O
